US07939533B2
b) N-[4-Amino-4′-(2-chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide
To a solution of 752 mg (1.26 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4′-(2-chloro-phenyl)-4-oxo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide in 7 ml methanol 970 mg (12.6 mmol) ammonium acetate were added at room temperature. The mixture was stirred 5 minutes at this temperature, cooled to 0° C. and treated with 119 mg (1.89 mmol) sodium cyanoborohydride. The reaction mixture was allowed to slowly warm to room temperature during 5 h, followed by dilution with 20 ml ethyl acetate, washing with 10 ml brine and extraction with 20 ml ethyl acetate. The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography to give 480 mg (64%) of the title compound as a white foam.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4′-(2-chloro-phenyl)-4-oxo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide | 1.26 mmol, 752 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CCC(CC1)=O)C1=C(C=CC=C1)Cl)(C)C)(F)F | C29H26ClF6N3O2
reactant | methanol | 12.6 mmol, 7 ml, 970 mg | CO | CH4O
reactant | sodium cyanoborohydride | 1.89 mmol, 119 mg | C(#N)[BH3-].[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-[4-Amino-4′-(2-chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 480 mg, 64% | NC1CCN(CC1)C1=NC=C(C(=C1)C1=C(C=CC=C1)Cl)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C | C29H29ClF6N4O
